* C:\Users\a037702\NotSynchronized\Personnel\GIT\Design_of_1200W_LLC_DCDC\03_hw_design\01_design_justification\02__Mosfets\02_simulation\Mosfet_PrimaryV2.asc
L1 N004 N005 {Lm}
Lr N004 Vm {Lr}
V3 Vcmd 0 SINE(0 1 {Freq})
B1 N002 Vm V= 10*(v(Vcmd)>{ Thresh})
B2 N006 0 V= 10*(v(Vcmd)<{-Thresh})
V1 N001 0 400 Rser=1m
R1 N003 N002 3
R2 N007 N006 3
R_load N004 N005 {Re_110}
C3 0 N005 {Cru}
M3 N001 N003 Vm Vm STW48N60DM2 NMOS STW48N60DM2
M1 Vm N007 0 0 STW48N60DM2 NMOS STW48N60DM2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Public\Downloads\ltspice\lib\cmp\standard.mos
.param Thresh=0.05
.tran 0 {5/Freq} {2.1/Freq}
.param Cru=120n Lr=21.8u Lm=65.4u Re_110=22.6
.step param Freq  60k 156k 10k
;.param Freq = 60k
.model STW48N60DM2 NMOS (VTO=3.5 
+ BETA=11.2 
+ LAMBDA=0.01 
+ RD=0.05 RS=0.05 
+ CGS=3.25n CGD=0.15n 
+ IS=40n 
+ RDS=0.079 
+ VDS=600 
+ Qg=70n 
+ Ciss=3250p Coss=142p Crss=4.5p 
+ KF=0.0 AF=1 
+ VMAX=5 
+ PB=0.8 
+ RG=4)
.backanno
.end
