* C:\Users\a037702\NotSynchronized\git\Design_of_1200W_LLC_DCDC\03_hw_design\01_design_justification\01_llc_tank\02_simulation\05_simple_simulation\run\Simple_simulationV2.asc
* Generated by LTspice 24.1.9 for Windows.
Lm N003 0 {Lm}
Ls1 N001 Vout {Ls}
Cr N002 Vm {Cr}
Lr N002 N003 {Lr}
Rload Vout 0 {Rload}
Vm Vm 0 PULSE({Vdc} 0 0 100n 100n {0.5/Freq} {1/Freq})
Ls2 Vout N004 {Ls}
D1 0 N001 D
D2 0 N004 D
Co Vout 0 {Co}
.model D D
.lib C:\Users\a037702\AppData\Local\LTspice\lib\cmp\standard.dio
k Lm Ls1 Ls2 1
.ic i(Lr) = 0 i(Lm) = 0  i(Ls1) = 0 i(Ls2) = 0
.tran {tsim}
.include params.txt
.backanno
.end
