* C:\Users\a037702\OneDrive - Alliance\12_personnel\05_GIT\Design_of_1200W_LLC_DCDC\03_hw_design\01_design_justification\02_mosfets\02_simulation\01_Mosfet_primary\Model_Test1 - Copy.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 400
V2 N003 0 PULSE(-5 10 0 100N 100N 1u 7u)
R1 N004 N003 3
L1 N001 N002 60µ
X§M2 N001 N002 N002 IRF150P221_L0
X§M1 N002 N004 0 IRF150P221_L0
.tran 50U
.model IPW60R060C7 NMOS(LEVEL=1 LAMBDA=0.0 VTO=3.986e+00 KP=3.500e+01 CGSO=2.7910e-09
+ CGDO=5.8974e-11 LAMBDA=2.6455e-01)
.ic i(L1)=0
.include IRF150P221.lib
.backanno
.end
